US07932247B2
1,1-Dimethylethyl 4-{[3-({[(3-bromo-4-fluorophenyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate
To a solution of [(3-bromo-4-fluorophenyl)methyl]amine (0.802 g, 3.33 mmol) in DMF (12.0 mL) was added 3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]benzoic acid (1.060 g, 3.32 mmol), HATU (1.389 g, 3.65 mmol), and diisopropylethylamine (2.9 mL, 16.6 mmol). The reaction was allowed to stir at room temperature overnight. The reaction was diluted with EtOAc (300 mL), washed with 1N HCl (2×75 mL), then saturated NaHCO3 (3×75 mL), then brine (2×75 mL). The organic layer was dried over MgSO4, filtered, and concentrated under vacuum to give the desired product (1.58 g, 94.2%). EI-MS m/z 506(M−H)+.

reactant | [(3-bromo-4-fluorophenyl)methyl]amine | 3.33 mmol, 0.802 g | BrC=1C=C(C=CC1F)CN | C7H7BrFN
reactant | 3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]benzoic acid | 3.32 mmol, 1.060 g | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C(=O)O)C=CC1 | C18H25NO4
reactant | HATU | 3.65 mmol, 1.389 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 16.6 mmol, 2.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 12.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl 4-{[3-({[(3-bromo-4-fluorophenyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate | 1.58 g, 94.2% | BrC=1C=C(C=CC1F)CNC(=O)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C25H30BrFN2O3
